US07423156B2
(1R,2R)-2-{[4′-(1H-benzimidazol-2-ylamino)-3′-fluoro-1,1′-biphenyl-4-yl]carbonyl}-cyclopentanecarboxylic acid
Methyl (1R,2R)-2-{[4′-(1H-benzimidazol-2-ylamino)-3′-fluoro-1,1′-biphenyl-4-yl]-carbonyl}cyclopentanecarboxylate (100 mg, 0.22 mmol) was dissolved in methanol and treated with an excess of 1 N aqueous sodium hydroxide solution (2.19 mL, 2.19 mmol). The solution was stirred at rt for 1 h, and then was concentrated under reduced pressure. The residue was partitioned between water and ethyl acetate, and the aqueous layer was adjusted to pH 2 by the addition of 1 N aqueous HCl. The organic layer was separated, washed with brine, dried (MgSO4), and concentrated under reduced pressure to provide an orange oil. The oil was suspended in THF and stirred until a precipitate formed. The precipitate was collected by filtration and washed with additional THF to provide the title compound as a yellow solid (30 mg, 31%, 80% ee). 1H NMR (300 MHz, DMSO-d6) δ 13.12 (br s, 1H), 11.30 (br s, 1H), 8.12 (d, 2H), 7.96-7.76 (m, 5H), 7.46-7.42 (m, 2H), 7.30-7.26 (m, 2H), 4.15-4.07 (m, 1H), 3.27-3.19 (m, 1H), 2.21-2.12 (m, 1H), 2.05-1.96 (m, 1H), 1.86-1.55 (m, 4H); LC-MS m/z 444.4 (MH+), retention time 2.79 minutes.

reactant | Methyl (1R,2R)-2-{[4′-(1H-benzimidazol-2-ylamino)-3′-fluoro-1,1′-biphenyl-4-yl]-carbonyl}cyclopentanecarboxylate | 0.22 mmol, 100 mg | N1C(=NC2=C1C=CC=C2)NC2=C(C=C(C=C2)C2=CC=C(C=C2)C(=O)[C@H]2[C@@H](CCC2)C(=O)OC)F | C27H24FN3O3
reactant | sodium hydroxide | 2.19 mmol, 1 N, 2.19 mL | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | (1R,2R)-2-{[4′-(1H-benzimidazol-2-ylamino)-3′-fluoro-1,1′-biphenyl-4-yl]carbonyl}-cyclopentanecarboxylic acid | 30 mg, 31% | N1C(=NC2=C1C=CC=C2)NC2=C(C=C(C=C2)C2=CC=C(C=C2)C(=O)[C@H]2[C@@H](CCC2)C(=O)O)F | C26H22FN3O3
